US05698551
To a solution of 5H-dibenz[b,e]azepine-6,11-dione (3.0 g, 0.013 mol) in dry N,N-dimethylformamide (25 ml) kept under an atmosphere of nitrogen, sodium hydride (0.7 g, 0.027 mol, 60% dispersion in mineral oil) was added in portions and the reaction mixture was stirred for 1.5 hour. 1-Bromo-3-chloropropane (5.0 g, 0.031 mol) dissolved in N,N-dimethylformamide was slowly added and the mixture was stirred overnight. Ammonium chloride (2.0 g, 0.04 mol) was added and stirring was continued for 30 minutes. The solution was poured onto water (300 ml) and the mixture was extracted with dichloromethane (2×200 ml). The combined organic extracts were dried (MgSO4), filtered and the solvent was evaporated in vacuo. The residue was purified by column chromatography on silica gel (150 g) using a mixture of heptane and ethyl acetate (4:1) as eluent to give 3.1 g (79%) of 5-(3-chloropropyl)-5H-dibenz[b,e]azepine-6,11-dione as an oil.

reactant | 5H-dibenz[b,e]azepine-6,11-dione | 0.013 mol, 3.0 g | C1=CC=CC=2NC(C3=C(C(C21)=O)C=CC=C3)=O | C14H9NO2
reactant | sodium hydride | 0.027 mol, 0.7 g | [H-].[Na+]
reactant | 1-Bromo-3-chloropropane | 0.031 mol, 5.0 g | BrCCCCl | C3H6BrCl
reactant | Ammonium chloride | 0.04 mol, 2.0 g | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 5-(3-chloropropyl)-5H-dibenz[b,e]azepine-6,11-dione | 3.1 g, 79% | ClCCCN1C2=C(C(C3=C(C1=O)C=CC=C3)=O)C=CC=C2 | C17H14ClNO2
